US04432988
The foregoing mixture of 2-cis and 2-trans-3-cyclohexylacrylonitrile (26.50 g) was dissolved in sodium benzylate solution prepared from sodium (0.65 g) and benzyl alcohol (90 ml) and the resulting solution heated on the steam-bath with stirring for 4 hours then set aside at room temperature for 18 hours. The resulting dark solution was diluted with ether and washed with water. The ethereal extract was dried (Na2SO4), the solvent removed in vacuo, and the residue unchanged nitrile removed by distillation under high vacuum. The residual material was taken up in ether, decolorised with activated charcoal, filtered, and the solvent removed in vacuo. The residual yellow syrup (ca. 22 g) was dissolved in dry ether (40 ml) and added dropwise at +5° to a stirred suspension of lithium aluminium hydride (3.4 g) in dry ether (125 ml). After 1 hour at room temperature, the reaction mixture was treated with water and the resulting gel filtered through Celite. The yellow organic phase was separated, dried (MgSO4), the solvent removed in vacuo, and the residual orange oil distilled, giving 3-benzyloxy-3-cyclohexylpropylamine as a colourless viscous oil, b.p. 120°-5°/0.05-0.06 mm.

reactant | 2-trans-3-cyclohexylacrylonitrile | 26.50 g | C1(CCCCC1)/C=C/C#N | C9H13N
reactant | benzyl alcohol | 90 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | sodium | [Na] | Na
solvent | ether | CCOCC | C4H10O
solvent | sodium | 0.65 g | [Na] | Na
product | 3-benzyloxy-3-cyclohexylpropylamine | C(C1=CC=CC=C1)OC(CCN)C1CCCCC1 | C16H25NO
